Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hematuria, Fatigue
 
Major Surgical or Invasive Procedure:
Cystoscopy with bladder mass removal and fulgeration - ___
ERCP with biopsy of pancreatic mass - ___
___ biopsy of liver lesion - ___

 
History of Present Illness:
 ___ yo man current long time smoker without PMHx (has not seen a 
doctor in 30+ years) not taking any medications, presents as 
transfer from OSH with painless hematuria for 1 month.  
 Brought to ED at ___ by his daughter who lives in 
___ where they did labs that showed H&H 3.___, got 2 units 
PRBCs. At ___ a CT was performed which showed an ill 
defined soft tissue density in bladder which could represent 
clot or malignancy as well as ill defined hypodensity within the 
tail of the pancreas which may represent IPMN vs other neoplasm. 
Lastly, age indeterminate splenic infarcts measuring aprox 30% 
of splenic parenchyma.  
 The patient only complains of right hip pain intermittently 
with leg numbness/tingling, fatigue, mild dyspnea, and pain when 
passing urinary clots sometimes with difficulty urinating. 
Otherwise is not in any pain.  
 In further discussion he first noted gross hematuria ___ years 
ago. He states it was explicitly associated with exertion 
(lifting or moving heavy objects; not exercise per se). He would 
have gross hematuria for about 1 week with associated small 
clots and some dysuria w/clot passage. Otherwise asymptomatic. 1 
month ago he recalls moving a boat lift and the next day had the 
same onset of usual hematuria. However it has not resolved 
since. He subsequently developed some shortness of breath which 
prompted his presentation to ___.  
 He ___ chest pain, endorses "feeling his heart beat" and 
dyspnea only as of late. Denies abdominal pain, increased 
satiety, changes in bowel habits. Denies changes in vision, 
headaches, dizziness and vertigo. No urinary or fecal 
incontinence or back pain. He does endorse mild right hip pain 
which is worse with use and has some associated radiculopathy to 
the heel unchanged on the order of months to year.  
 Occupational history is significant for long term plumber, 
autome___ working with car batteries.  
 Family history is significant for 2 sisters with breast cancer 
diagnosed at age ___ and ___ (approximately) as well as a maternal 
grandmother with breast cancer (mom did not have). No family 
history of colon, pancreatic or thyroid malignancy.  
 Additionally, pt is a ___ and ___ War veteran who "think 
he may have been exposed to agent orange like any of the other 
guys, but who knows, probably not."  
 
 In the ED, initial vital signs were:  
 98.7 106 128/72 18 98% RA  
 
 - Exam notable for:  
 PE: heart and lung sounds distant with prolonged expiratory 
phase, no wheeze or crackles, RRR normal S1/2 without extra 
heart sounds. No abdominal pain or tenderness. Strength ___ in 
___, no edema. No rash.  
 - Labs were notable for:  
 cbc: 11.2> 5.2/17.8 < 448; diff with 1 "other"  
 chem 7 w/o abnormality  
 LFTS  
 ALT: 67 AP: 161 Tbili: 1.5 Alb: 3.9  
 AST: 52 LDH: Dbili: TProt:  
 ___: Lip: 24  
 ___: 12.6 PTT: 25.1 INR: 1.2  
 UA: significant for:  
 cloudy appearance with mild elevation of urobilinogen, small 
leuks, large blood and trace ketone and proteinuria.  
 RBC >182 with 165 WBC (no epis) and few bacteria.  
 - Studies performed include:  
 OSH CT Ab/Pevl and Chest  
 - Patient was given:  
 Patient was ordered for 2 additional units but never received 
in ED  
 Upon arrival to the floor, the patient is comfortable in NAD  

 
Past Medical History:
Tobacco use
 
Social History:
___
Family History:
 2 sisters with breast cancer diagnosed at age ___ and ___ 
(approximately) as well as a maternal grandmother with breast 
cancer (mom did not have). No family history of colon, 
pancreatic or thyroid malignancy.  
 

 
Physical Exam:
ADMISSION EXAM
==============
 Vitals- 98.8 93 108/70 100%RA  
 GENERAL: AOx3, NAD  
 HEENT: ATNC. EOMI. + conjunctival pallor. sclera anicteric. Dry 
mucous membranes, good dentition. Oropharynx is clear.  
 NECK: Thyroid is normal in size and texture, no nodules, 
masses. No cervical lymphadenopathy.  
 CARDIAC: Regular rhythm, normal rate, soft II/VI SEM. No 
rubs/gallops. No JVD.  
 LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields. No wheezes, rhonchi or rales. 
Resonant to percussion.  
 BACK: Skin. no spinous process tenderness. no CVA tenderness.  
 ABDOMEN: Normal bowels sounds, non distended, non-tender to 
deep palpation in all four quadrants. Eczematous changes 
surrounding umbilicus. No SMJ nodule. Tympanic to percussion. No 
organomegaly.  
 EXTREMITIES: No clubbing, cyanosis, or edema, no sign of 
atrophy/hypertrophy. Pulses DP/Radial 2+ bilaterally.  
 SKIN: Multiple seborrheic keratosis. Some darkly pigmented 
lesions not overtly concerning. No evidence of ulcers, rash or 
lesions suspicious for malignancy  
 NEUROLOGIC: CN2-12 intact. ___ strength througout. Normal 
sensation.  

DISCHARGE EXAM
==============
Vitals: 97.8, HR 74, BP 134/72, RR 18, 98% RA  
GENERAL - Alert and oriented x3, nontoxic appearing
HEENT - PERRLA, EOMI, sclerae anicteric, MMM, OP clear
HEART - RRR, S1/S2, no murmur/rub/gallop 
LUNGS - CTAB, normal resp effort
ABDOMEN - obese, NT, ND, +BS, negative ___
EXTREMITIES - WWP, no c/c, no edema, 2+ peripheral pulses  
NEURO - A&Ox3, no gross focal deficits
SKIN - no jaundice
 
Pertinent Results:
REPORTS
================
OSH CT Ab/Pelv ___
 - ill defined soft tissue density in bladder which may 
represents clot but mass cannot be excluded  
 - ill defines hypodensity within the tail of the pancreas which 
may represent IPMN vs other neoplasm  
 - age indeterminate splenic infarcts measuring aprox 30% of 
splenic parenchyma.  

RUQUS ___
Diffusely echogenic hepatic architecture consistent with 
steatosis.  
Innumerable regions of hypoechogenicity, some due to focal fatty 
sparing, but also including several round regions measuring up 
to 1.2 cm in the liver raising the concern for metastatic 
disease.  An MRI is recommended for further evaluation. 

GU-US ___
Large heterogeneous echogenic mass within the bladder concerning 
for 
malignancy.

MRCP ___ Mild dilatation and peribiliary enhancement of the central 
intrahepatic 
ducts, as well as dilatation of peripheral biliary radicles in 
segments II and V. Patchy areas of altered perfusion of the 
hepatic parenchyma.  Several small nonenhancing versus 
hypoenhancing foci in the hepatic dome and segment V, measuring 
up to 1 cm, noting that enhancement characteristics are 
difficult to assess secondary to small size. This constellation 
of findings is most concerning for cholangitis with 
microabscesses.  Small metastases are felt less likely, but not 
completely excluded.  Follow-up exam after appropriate treatment 
is recommended.  There is mild circumferential gallbladder wall 
edema, may be reactive or from third-spacing, is new since prior 
exam.  Acute cholecystitis is less likely, cannot be excluded, 
clinically correlate.  Dilated common bile duct, measures 1.1 
cm, without stones. 
2) 5.4 x 2.8 cm mass in the pancreatic tail with progressive 
peripheral 
enhancement and central necrosis, concerning for pancreatic 
adenocarcinoma. 

EUS ___
EUS was performed using a linear echoendoscope at ___ MHz 
frequency: 
•The head and uncinate pancreas were imaged from the duodenal 
bulb and the second / third duodenum. 
•The body and tail [partially] were imaged from the gastric body 
and fundus. 
•A focused EUS was performed. 
___: 
___ 3.2 cm X 1.7 cm ill-defined mass was noted in the tail 
of the pancreas. 
___ mass was hypoechoic and heterogenous in echotexture. 
___ borders of the mass were irregular and poorly 
defined. 
___ was performed of the pancreatic mass. 
___ doppler was used to determine an avascular path for 
needle aspiration. 
___ Covidien 22-gauge Sharkcore fine needle biospy system 
with a stylet was used to perform aspiration.
___ Five needle passes were made into the mass 
•Otherwise normal EUS to third part of the duodenum

US-guided Liver Biopsy ___
Uncomplicated 18-gauge targeted liver biopsy x 3 of the 
suspicious solid 
segment 5 lesion, with specimen sent to pathology.  No drainable 
fluid 
collections were identified 

PATHOLOGY/CYTOLOGY
==================
Urine Cytology: negative for malignant cells

Bladder biopsy:
1. Bladder, tumor base, TURBT:
Muscularis propria and lamina propria tissue, negative for 
carcinoma.
2. Bladder, tumor, TURBT:
Non-invasive low grade papillary urothelial carcinoma, with 
inverted growth pattern.
Muscularis propria is not identified.
3. Bladder, clot, TURBT:
Non-invasive low grade papillary urothelial carcinoma, with 
inverted growth pattern.
Blood clot.
Muscularis propria is not identified

Pancreatic mass biopsy: pending
Liver biopsy: pending

ADMISSION LABS
================
___ 08:08PM BLOOD WBC-11.2* RBC-2.42* Hgb-5.2* Hct-17.8* 
MCV-74* MCH-21.5* MCHC-29.2* RDW-22.5* RDWSD-59.6* Plt ___
___ 08:08PM BLOOD Neuts-57 Bands-0 ___ Monos-9 Eos-2 
Baso-0 ___ Myelos-0 NRBC-2* Other-0 AbsNeut-6.38* 
AbsLymp-3.58 AbsMono-1.01* AbsEos-0.22 AbsBaso-0.00*
___ 08:08PM BLOOD ___ PTT-25.1 ___
___ 08:08PM BLOOD Glucose-114* UreaN-14 Creat-0.9 Na-140 
K-4.1 Cl-103 HCO3-22 AnGap-19
___ 08:08PM BLOOD ALT-67* AST-52* AlkPhos-161* TotBili-1.5
___ 08:08PM BLOOD Lipase-24
___ 08:08PM BLOOD cTropnT-<0.01
___ 08:46AM BLOOD GGT-223*
___ 08:08PM BLOOD Albumin-3.9
___ 08:46AM BLOOD TotProt-5.8* Albumin-3.6 Globuln-2.2 
Calcium-8.2* Phos-3.7 Mg-2.6 Iron-159 Cholest-87
___ 08:46AM BLOOD calTIBC-514* Hapto-202* Ferritn-15* 
TRF-395*
___ 07:28AM BLOOD %HbA1c-5.0 eAG-97
___ 08:46AM BLOOD Triglyc-67 HDL-28 CHOL/HD-3.1 LDLcalc-46
___ 08:46AM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative HAV Ab-Negative
___ 08:46AM BLOOD HIV Ab-Negative
___ 08:46AM BLOOD HCV Ab-Negative
___ 11:32PM BLOOD Lactate-1.3    
___ 08:00PM URINE Blood-LG Nitrite-NEG Protein-100 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-2* pH-6.5 Leuks-SM 
___ 08:00PM URINE RBC->182* WBC-165* Bacteri-FEW Yeast-NONE 
Epi-0
___ 06:13AM URINE Hours-RANDOM Creat-187 TotProt-627 
Prot/Cr-3.4* Albumin-322.9 Alb/Cre-1726.7*

PERTINENT LABS
================
SPEP: NO MONOCLONAL IMMUNOGLOBULIN SEEN
NEGATIVE FOR ___ PROTEIN

UPEP: NO MONOCLONAL IMMUNOGLOBULIN SEEN
NEGATIVE FOR ___ PROTEIN

CA ___: 137 (reference: <34)

RPR: negative

MICROBIOLOGY
=================
Urine culture - contaminated
Blood cultures - no growth

DISCHARGE LABS
=================
___ 06:44AM BLOOD WBC-8.0 RBC-3.48* Hgb-8.4* Hct-28.8* 
MCV-83 MCH-24.1* MCHC-29.2* RDW-25.9* RDWSD-75.7* Plt ___
___ 06:44AM BLOOD Glucose-108* UreaN-10 Creat-0.7 Na-139 
K-4.5 Cl-105 HCO3-23 AnGap-16
___ 06:44AM BLOOD Calcium-8.6 Phos-3.4 Mg-2.___ yo M w/ a history of smoking but no chronic medical problems, 
who presents from ___ for fatigue, 
hematuria, and significant anemia. Found to have large bladder 
mass, pancreatic mass, and multiple liver lesions on imaging.

# Hematuria
# Acute blood loss anemia
# Urothelial bladder cancer
He has had ___ year of hematuria intermittently, but recently 
with an increase in gross hematuria. More recently, he had been 
feeling fatigued.  Presented to OSH were ill-defined bladder 
mass was seen on OSH CT, confirmed on ___ US, so he went to 
the OR for cystoscopy, clot evacuation, bladder tumor resection, 
and fulgeration on ___ with Urology at ___.  Presenting Hgb 
3.2, 6.5 after 4U PRBC, 7.8 after one further unit, and was 
stable thereafter.  Iron studies were consistent with deficiency 
(low ferritin, high TIBC), hemolysis labs don't point to this as 
etiology of anemia.  Pathology came back consistent with low 
grade urothelial carcinoma of the bladder, no evidence of 
invasion on path report. Will need repeat cystoscopy in 3 
months.  Also started daily PO Iron, with Colace.

# Pancreatic Mass:  Initially noted as incidental finding on OSH 
CT imaging of abdomen. MRCP here confirmed this finding, showing 
a lesion consistent with pancreatic adenocarcinoma.  Of note, 
has a family history of multiple family members with breast 
cancer (one w/early onset) which could raise suspicion for BRCA 
mutation, which is associated with pancreatic cancer.  Underwent 
EUS with FNA of panc mass on ___, biopsy results to be 
followed up as outpatient.  Ca ___ was high, raising concern 
for cancer.  The Pancreatic ___ was emailed 
prior to discharge, and will contact pt for follow-up once 
pathology is finalized.

# Hepatic lesions
# Transaminitis
Mildly elevated transaminases, mod elevation in Alk phos and 
T-bili, elevated GGT. RUQUS and MRCP both showed numerous small 
hepatic lesions.  The US favored metastases as etiology, whereas 
MRCP suggested that this could be cholangitis with microabscess. 
 Obstruction due to mass/stones feels less likely.  Hep B/C, HIV 
negative.  Clinically, he did not appear to be infected, as he 
was consistently afebrile, nonseptic appearing, and with 
negative cultures.  He was briefly on Unasyn ___, but 
this was discontinued.  Underwent ___ biopsy on ___, and 
there was no drainable fluid collection, making abscess 
unlikely.  Pathology sent, to be followed up as outpatient.

# Leukocytosis: WBC to 17.3 the day after cystoscopy, likely 
reactive post-cysto.  Afebrile and hemodynamically stable with 
negative cultures throughout stay.  Downtrended from 17 to 11 
the next day without antibiotics, and continued to downtrend 
throughout hospital stay.  Low concern for infection.

# Splenic Infarcts: OSH CT raises question of "age indeterminate 
splenic infarcts measuring aprox 30% of splenic parenchyma," 
again noted on MRCP here.  Consider embolic phenomenon, 
malignancy, infiltrative process, or hypercoaguable state.  
Malignancy feels most likely given total clinical picture.  No 
A-Fib noted.  No infectious symptoms or prodrome to suspect 
infective endocarditis.

# Health maintenance: Given low interaction with health care 
system, obtained some basic screening tests to help ease his 
transition back into health care.  Lipid panel without 
hyperlipidemia, HIV/RPR negative, Hep C negative, A1C 5.4%.  
Deferred other screening to outpatient setting. Off note will 
likely need CT chest at some point for lung cancer screening 
given smoking history.

# Hep B non-immune:  vaccinated ___ in house, will need to 
complete series as outpatient
- Dose ___ at 1-month: due ___ or later
- Dose ___ at 6-months: due ___ or later

# Proteinuria: Noted on urine studies. Likely simply due to GU 
bleeding. BUN/Cr normal.  A1C 5.0%.
- Outpatient follow-up

# Nicotine Dependence  
- 21mcg patch given

===================
TRANSITIONAL ISSUES
===================
- Biopsy results pending for both the Pancreatic Mass, and Liver 
Lesion, at time of discharge. Results to be communicated to both 
Patient and PCP.
- Started on daily PO Ferrous Sulfate for iron deficiency anemia 
(that will likely improve given no more ongoing hematuria)
- Needs repeat Cystoscopy in 3 months. Can be done at ___ or 
closer to home.
- Will email our Multidisciplinary Pancreatic Tumor clinic to 
schedule outpatient follow-up for him
- No PCP prior to arrival. However, he plans to establish with 
Dr. ___ in ___. She was emailed to notify her 
of his admission and clinical status, as well as ongoing issues.
- Hep B non-immune: vaccinated ___ in house, will need to 
complete series as outpatient. Dose ___ at 1-month: due ___ 
or later. Dose ___ at 6-months: due ___ or later.
- Small amount of proteinuria noted. Likely due to GU bleeding. 
BUN/Cr normal. Recommend outpatient recheck.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice daily 
Disp #*60 Capsule Refills:*0 
2.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
3.  Nicotine Patch 21 mg TD DAILY 
RX *nicotine 21 mg/24 hour apply to arm once daily Disp #*28 
Patch Refills:*2 
4.  Multivitamins W/minerals 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bladder Cancer
Pancreatic Mass
Liver Lesions
Acute blood loss anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure caring for you at ___.  You were admitted 
because of low blood counts and bleeding.  You were given blood 
transfusions and your counts improved.  You underwent a 
procedure with the Urologists, and a bladder tumor was removed.  
This turned out to be a type of bladder cancer, but it appears 
that it was completely resected based on the pathology report.  
You should see a Urologist, either at ___ or closer to home, 
in 3 months for another Cystoscopy.

You were also found to have a mass in the pancreas, and lesions 
in your liver.  Biopsies were taken of these.  Our concern, as 
you know, is that this is cancer, although nothing is for sure 
until the biopsy results come back.  We will call you with these 
results.  You should follow up at ___ in the Pancreatic Tumor 
Clinic next week to discuss this, and we will call you with that 
appointment.

It was a pleasure caring for you, we wish you the best,
___ Medicine Team
 
Followup Instructions:
___